US08138189B2
Step 5: N-{3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenyl}-terephthalamic acid methyl ester
A solution of methyl 4-chlorocarbonylbenzoate (CAS Reg. No. 7377-26-6, 30 mg) and N,N-diisopropylethylamine (0.05 ml) in DCM (5 ml) was added to a solution of 3-(4-amino-2-chloro-phenyl)-2-(2-chloro-pyridin-4-yl)-1,1,1-trifluoro-butan-2-ol (50 mg) in DCM (1 ml). The mixture was stirred for 2 h at room temperature. Additional 4-chlorocarbonylbenzoate (CAS Reg. No. 7377-26-6, 54 mg) and N,N-diisopropylethylamine (0.1 ml) were added. The mixture was stirred for 4 h at room temperature. The mixture was poured on a saturated aqueous NaHCO3 solution (20 ml) and extracted with EtOAc. The combined organic layers were dried over Na2SO4 and then concentrated to an oil. The residue was purified by flash chromatography (SiO2, 0 to 30% EtOAc/heptane) to give the title compound (57 mg) as a white foam. MS (m/e)=527.0 [M+H+].

reactant | methyl 4-chlorocarbonylbenzoate | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
reactant | N,N-diisopropylethylamine | 0.05 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-amino-2-chloro-phenyl)-2-(2-chloro-pyridin-4-yl)-1,1,1-trifluoro-butan-2-ol | 50 mg | NC1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)Cl | C15H13Cl2F3N2O
reactant | 4-chlorocarbonylbenzoate | ClC(=O)C1=CC=C(C(=O)[O-])C=C1
reactant | N,N-diisopropylethylamine | 0.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | N-{3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenyl}-terephthalamic acid methyl ester | 57 mg | COC(C1=CC=C(C(=O)NC2=CC(=C(C=C2)C(C(C(F)(F)F)(O)C2=CC(=NC=C2)Cl)C)Cl)C=C1)=O | C24H19Cl2F3N2O4
